US06214873B1
To a solution of magnesium (4.4 g) in tetrahydrofuran (20 ml) was added dibromoethane (1.6 ml) under a nitrogen atmosphere, and the mixture was stirred for 10 minutes. To the reaction mixture was added a solution of 1-bromo-4-phenylbutane (38.8 g) in tetrahydrofuran (30 ml) over 30 minutes, and the mixture was stirred for 40 minutes. The obtained Grignard reagent was dropwise added to a solution of 4-(2-bromoethyl)benzaldehyde (32.3 g) in tetrahydrofuran (250 ml) under ice-cooling over 30 minutes and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution (200 ml) under ice-cooling, and the mixture was extracted with ethyl acetate (200 ml). The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure to give a brown oily substance (70.5 g). The obtained brown oily substance was purified by silica gel column chromatography (eluent; hexane: ethyl acetate=10:1) to give 1-[4-(2-bromoethyl)phenyl]-5-phenylpentan-1-ol (32 g) as a yellow oily substance.

reactant | magnesium | 4.4 g | [Mg] | Mg
reactant | dibromoethane | 1.6 ml | BrC(C)Br | C2H4Br2
reactant | 1-bromo-4-phenylbutane | 38.8 g | BrCCCCC1=CC=CC=C1 | C10H13Br
reactant | 4-(2-bromoethyl)benzaldehyde | 32.3 g | BrCCC1=CC=C(C=O)C=C1 | C9H9BrO
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-bromoethyl)phenyl]-5-phenylpentan-1-ol | 32 g | BrCCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)O | C19H23BrO
